US04296125
N-(2-(4-(4-chlorobenzoyl)phenoxy)-2-methylpropanoyl)diethanolamine
A solution of 3.36 g (10 millimoles) of 2-(4-(4-chlorobenzoyl)phenoxy)-2-methylpropionoyl chloride in 15 ml of acetone were added, slowly under stirring at room temperature, to a solution of 2.1 g (20 millimoles) of diethanolamine in 30 ml of acetone.

reactant | 2-(4-(4-chlorobenzoyl)phenoxy)-2-methylpropionoyl chloride | 10 millimoles, 3.36 g | ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)Cl)(C)C)C=C2)C=C1 | C17H14Cl2O3
reactant | diethanolamine | 20 millimoles, 2.1 g | N(CCO)CCO | C4H11NO2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-(2-(4-(4-chlorobenzoyl)phenoxy)-2-methylpropanoyl)diethanolamine | ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)N(CCO)CCO)(C)C)C=C2)C=C1 | C21H24ClNO5
